US07053085B2
Preparation of (2S)-4-(4-methoxyphenoxy)butane-1,2-diol
A solution of (4S)-4-[2-(4-methoxyphenoxy)ethyl]-2,2-dimethyl-1,3-dioxolane (8.2 g, 30.8 mmol) in AcOH/water was stirred at rt for 5 h and concentrated in vacuo. The residue was co-evaporated with toluene (3×) and then pumped under high vacuum to give the desired product. 1H NMR (400 MHz, Acetone-d6): δ7.28 (2 H, d), 6.91 (2 H, d), 4.43 (2 H, s), 3.80 (3 H, s), 3.77 (1H, m), 3.66–3.42 (5 H, m), 1.86–1.76 (1 H, m), 1.68–1.60 (1 H, m).

reactant | (4S)-4-[2-(4-methoxyphenoxy)ethyl]-2,2-dimethyl-1,3-dioxolane | 30.8 mmol, 8.2 g | COC1=CC=C(OCC[C@@H]2OC(OC2)(C)C)C=C1 | C14H20O4
solvent | AcOH water | CC(=O)O.O
product | (2S)-4-(4-methoxyphenoxy)butane-1,2-diol | COC1=CC=C(OCC[C@@H](CO)O)C=C1 | C11H16O4
